data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4029,4614,[CH3:9][C:10](=[O:11])[C:12]([CH3:13])=[NH+:14][C-:15]([C:16]([CH3:17])=[O:18])[C:19]([CH3:20])=[O:21].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:15]([C:16]([CH3:17])=[O:18])([C:19]([CH3:20])=[O:21])[NH:14][C:12]1([C:10]([CH3:9])=[O:11])[CH3:13],water,298.15,26.59968739297073,-8.342367132346993
2690,2989,[CH3:16][NH:17][C:18](=[O:19])[C:20]([C:21](=[O:22])[O:23][CH3:24])=[N+:25]([CH3:26])[C-:27]([C:28]#[N:29])[C:30](=[O:31])[NH:32][CH3:33].[F:1][C:2]([F:3])([F:4])[C:5]1([Cl:6])[C:7]#[C:8][C:9]([Cl:10])([Cl:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[F:1][C:2]([F:3])([F:4])[C:5]1([Cl:6])[C:7]2=[C:8]([C:9]([Cl:10])([Cl:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:27]([C:28]#[N:29])([C:30](=[O:31])[NH:32][CH3:33])[N:25]([CH3:26])[C:20]2([C:18]([NH:17][CH3:16])=[O:19])[C:21](=[O:22])[O:23][CH3:24],water,298.15,32.00396264632587,-31.38635381774307
4658,5313,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15](=[O+:16][C-:17]([C:18]#[N:19])[C:20]#[N:21])[C:22](=[O:23])[O:24][CH3:25]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:17]([C:18]#[N:19])([C:20]#[N:21])[O:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:22](=[O:23])[O:24][CH3:25],water,298.15,14.735143849360092,-33.9033414073132
730,792,[CH3:11][C:12](=[O:13])[C-:14]([C:15]([CH3:16])=[O:17])[N+:18]([CH3:19])=[C:20]([CH3:21])[C:22]#[N:23].[CH3:1][O:2][C:3]#[C:4][c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1>>[CH3:1][O:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:20]([CH3:21])([C:22]#[N:23])[N:18]([CH3:19])[C:14]1([C:12]([CH3:11])=[O:13])[C:15]([CH3:16])=[O:17],water,298.15,26.86427297637515,-41.41880420828666
1383,1520,[CH3:15][CH:16]=[N+:17]([CH3:18])[C-:19]([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([C:6]([F:7])([F:8])[F:9])([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[C:19]([CH3:20])([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[N:17]([CH3:18])[CH:16]2[CH3:15],water,298.15,9.428331200062756,-36.85019594181945
5099,5788,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([C:12](=[O:13])[O:14][CH3:15])[N+:16]([CH3:17])=[C:18]([C:19](=[O:20])[O:21][CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:12](=[O:13])[O:14][CH3:15])[N:16]([CH3:17])[C:18]1([C:19](=[O:20])[O:21][CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,43.5059372807014,-3.595073174529273
3904,4465,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][CH-:6][N+:7]([CH3:8])=[C:9]([c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1)[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[CH:6]([CH3:5])[N:7]([CH3:8])[C:9]1([c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1)[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,20.97152565362493,-32.47247980380565
2711,3011,[CH2-:16][N+:17]([CH3:18])=[C:19]([C:20]([CH3:21])=[O:22])[C:23](=[O:24])[O:25][CH3:26].[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]#[C:8][C:9]([Br:10])([Br:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]2=[C:8]([C:9]([Br:10])([Br:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[CH2:16][N:17]([CH3:18])[C:19]2([C:20]([CH3:21])=[O:22])[C:23](=[O:24])[O:25][CH3:26],water,298.15,22.528554970448603,-35.659958573683866
2164,2400,[CH3:1][O:2][C:3]1([C:4]#[N:5])[C:6]#[C:7][C:8]([C:9]([F:10])([F:11])[F:12])([C:13]([F:14])([F:15])[F:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][O:22][C:23](=[O:24])[CH:25]=[NH+:26][C-:27]([C:28]#[N:29])[C:30]#[N:31]>>[CH3:1][O:2][C:3]1([C:4]#[N:5])[C:6]2=[C:7]([C:8]([C:9]([F:10])([F:11])[F:12])([C:13]([F:14])([F:15])[F:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[CH:25]([C:23]([O:22][CH3:21])=[O:24])[NH:26][C:27]2([C:28]#[N:29])[C:30]#[N:31],water,298.15,21.46505791446558,-27.20866916814681
9,9,[CH2:1]=[C:2]([CH3:3])[CH3:4].[CH3:5][C-:6]([C:7]#[N:8])[N+:9]#[C:10][C:11]#[N:12]>>[CH2:1]1[C:2]([CH3:3])([CH3:4])[C:10]([C:11]#[N:12])=[N:9][C:6]1([CH3:5])[C:7]#[N:8],water,298.15,16.044474663496793,-50.40919675258632
2189,2427,[CH3:15][NH:16][C:17](=[O:18])[C-:19]([NH+:20]=[C:21]([C:22]#[N:23])[C:24](=[O:25])[O:26][CH3:27])[C:28](=[O:29])[NH:30][CH3:31].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:19]([C:17]([NH:16][CH3:15])=[O:18])([C:28](=[O:29])[NH:30][CH3:31])[NH:20][C:21]2([C:22]#[N:23])[C:24](=[O:25])[O:26][CH3:27],water,298.15,26.88651516845141,-5.688006723091557
